US08877782B2
d) [3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol
To a solution of 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (73.6 g, 295 mmol) in THF (977 mL) was added portionwise lithiumaluminiumhydride (6.48 g, 162 mmol) over 20 min, at 0° C., and the reaction mixture was stirred at room temperature for 2.5 h. The mixture was then cooled to 0° C. and water (7.5 mL) added followed by sodium hydroxide (15% solution, 7.5 mL) and then again with water (21 mL). The precipitate was then filtered off and washed with THF. The combined washings and filtrate were then evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=75:25) afforded the title compound (34.7 g, 57%) which was obtained as a light yellow oil. MS: m/e=208.0 [M+H]+.

reactant | 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 295 mmol, 73.6 g | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)F | C13H12FNO3
reactant | lithiumaluminiumhydride | 162 mmol, 6.48 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 7.5 mL | O | H2O
reactant | sodium hydroxide | 7.5 mL | [OH-].[Na+]
reactant | water | 21 mL | O | H2O
solvent | THF | 977 mL | C1CCOC1 | C4H8O
product | [3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 34.7 g, 57% | FC1=C(C=CC=C1)C1=NOC(=C1CO)C | C11H10FNO2
